US08293896B2
2-[4-(diethoxymethyl)benzyl]-8-isobutyl-2,8-diazaspiro[4.5]decane
To a 10% acetic acid-dimethylformamide (10 mL) solution of 8-isobutyl-2,8-diazaspiro[4.5]decane (600 mg) and 4-(diethoxymethyl)benzaldehyde (661 mg), sodium triacetoxyborohydride (1.30 g) was added. The reaction solution was stirred at room temperature for 14 hours. To the reaction solution, an aqueous 5N sodium hydroxide solution (10 mL) was added. The aqueous layer was extracted twice with dichloromethane (20 mL). The combined organic layer was washed with saturated sodium chloride solution (20 mL) and then dried over anhydrous magnesium sulfate. After removing the anhydrous magnesium sulfate by filtration, the filtrate was concentrated. The residue was purified by silica gel chromatography (ethyl acetate:methanol: 28% aqueous ammonia=1:0:0→100:5:1→100:10:2) to obtain the title compound (730 mg) having the following physical properties.

reactant | 8-isobutyl-2,8-diazaspiro[4.5]decane | 600 mg | C(C(C)C)N1CCC2(CCNC2)CC1 | C12H24N2
reactant | 4-(diethoxymethyl)benzaldehyde | 661 mg | C(C)OC(C1=CC=C(C=O)C=C1)OCC | C12H16O3
reactant | sodium triacetoxyborohydride | 1.30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 5N, 10 mL | [OH-].[Na+]
solvent | acetic acid dimethylformamide | 10 mL | C(C)(=O)O.CN(C=O)C
product | 2-[4-(diethoxymethyl)benzyl]-8-isobutyl-2,8-diazaspiro[4.5]decane | 730 mg | C(C)OC(C1=CC=C(CN2CC3(CC2)CCN(CC3)CC(C)C)C=C1)OCC | C24H40N2O2
